US07592477B2
Step c) Formation of ethyl[(4-dodec-1-ynylbenzyl)(4-fluorobenzyl)amino](oxo)acetate
The same procedure as employed in the preparation of Example 226 (step c) but using ethyl[(4-bromobenzyl)(4-fluorobenzyl)amino](oxo)acetate and 1-dodecyne gave the title compound as a pale yellow oil (23%). 1H NMR (CDCl3, 300 MHz) δ 7.39 (m, 2H), 7.25-7.00 (m, 6H), 4.45 (s, 1H), 4.44 (s, 1H), 4.36 (m, 2H), 4.30 (s, 1H), 4.28 (s, 1H), 2.42 (t, 2H, J=7.1 Hz), 1.62 (m, 2H), 1.46 (m, 2H), 1.37-1.25 (m, 15H), 0.89 (t, 3H, J=6.6 Hz). M+(LC/MS(ESI)): 480.3. HPLC (Condition A), Rt: 6.28 min (HPLC purity: 99.8%).

reactant | ethyl[(4-bromobenzyl)(4-fluorobenzyl)amino](oxo)acetate | C(C)OC(C(=O)N(CC1=CC=C(C=C1)F)CC1=CC=C(C=C1)Br)=O | C18H17BrFNO3
reactant | 1-dodecyne | C#CCCCCCCCCCC | C12H22
product | ethyl[(4-dodec-1-ynylbenzyl)(4-fluorobenzyl)amino](oxo)acetate | 23% | C(C)OC(C(=O)N(CC1=CC=C(C=C1)F)CC1=CC=C(C=C1)C#CCCCCCCCCCC)=O | C30H38FNO3
